US05403816
Preparation of S-ethyl 6-amino-3-[(4,6-dimethoxypyrimidin-2-yl)oxy]picolinthioate (Compound No. 344)
2.5 g (8.5 mmol) of 6-amino-3-[(4,6-dimethoxypyrimidin-2-yl)oxy]picolinic acid, 0.64 g (10.3 mmol) of ethylmercaptan, 2.8 g (17 mmol) of diethyl cyano phosphate and 1.73 g (17.1 mmol) of triethylamine were added to a THF solution, and the mixture was stirred at room temperature for 4 hours. After completion of the reaction, the reaction mixture was poured into water and extracted with ethyl acetate, followed by separation, washed with water and dried. Then, the solvent was distilled off, and the residual oily product was purified by column chromatography to obtain the desired product as colorless transparent crystals.

reactant | 6-amino-3-[(4,6-dimethoxypyrimidin-2-yl)oxy]picolinic acid | 8.5 mmol, 2.5 g | NC1=CC=C(C(=N1)C(=O)O)OC1=NC(=CC(=N1)OC)OC | C12H12N4O5
reactant | ethylmercaptan | 10.3 mmol, 0.64 g | C(C)S | C2H6S
reactant | diethyl cyano phosphate | 17 mmol, 2.8 g | P(=O)(OCC)(OCC)OC#N | C5H10NO4P
reactant | triethylamine | 17.1 mmol, 1.73 g | C(C)N(CC)CC | C6H15N
solvent | water | O | H2O
solvent | THF | C1CCOC1 | C4H8O
product | S-ethyl 6-amino-3-[(4,6-dimethoxypyrimidin-2-yl)oxy]picolinthioate | yield: 34.7% | NC1=CC=C(C(=N1)C(SCC)=O)OC1=NC(=CC(=N1)OC)OC | C14H16N4O4S
